US07547691B2
2-(2-{3-[1-(2-Fluoroethyl)-piperidin-4-yl]-propylamino}-5-methyl-pyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride
Using the method of 2-{5-chloro-2-[2-(1-ethylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride, the title compound is synthesized from 2-[5-methyl-2-(3-piperidin-4-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and 1-bromo-2-fluoroethane and isolated as a yellow solid. ES+(m/z) 496 [M(free base)+H].

reactant | 2-{5-chloro-2-[2-(1-ethylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCC2CCN(CC2)CC
reactant | 2-[5-methyl-2-(3-piperidin-4-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCC2CCNCC2 | C25H31N5OS
reactant | 1-bromo-2-fluoroethane | BrCCF | C2H4BrF
product | 2-(2-{3-[1-(2-Fluoroethyl)-piperidin-4-yl]-propylamino}-5-methyl-pyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCC2CCN(CC2)CCF | InChI=1S/C27H34FN5OS.2ClH/c1-18-17-30-27(29-12-3-4-19-9-13-33(14-10-19)15-11-28)32-25(18)24-16-22-21(5-2-6-23(22)35-24)26(34)31-20-7-8-20;;/h2,5-6,16-17,19-20H,3-4,7-15H2,1H3,(H,31,34)(H,29,30,32);2*1H
